US06962941B2
A9. 4-Amino-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester
4.7 g (10.9 mmol) of 4-azido-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester (starting compound A10) are dissolved in 70 ml of methanol and, after addition of 0.5 g of Pd/C (10%), hydrogenated. After the reaction is complete, the catalyst is filtered off with suction and the filtrate is concentrated in vacuo. Drying under high vacuum results in 3.8 g of the title compound as a colorless solidified foam. The mass spectrum shows the molecular peak MH+ at 406 Da.

reactant | 4-azido-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester | 10.9 mmol, 4.7 g | COC([C@H]1N(CC(C1)N=[N+]=[N-])C(CCC1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O)=O | C21H29N5O5
solvent | methanol | 70 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-Amino-1-[3-(3-tert-butyloxycarbonylaminomethylphenyl)propionyl]proline methyl ester | 3.8 g | COC([C@H]1N(CC(C1)N)C(CCC1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O)=O | C21H31N3O5
